US04468245
To a solution of 1.61 g (0.01 mol) of N-allyl-N-α-methylbenzylamine and 1.38 g of potassium carbonate in 15 ml of acetone was dropped a solution of 2.62 g (0.084 mol) of 4-benzoyloxybenzenesulfonyl chloride in 5 ml of acetone under ice-cooling conditions. The mixture was subjected to the reaction at room temperature for 30 minutes and then at 50° C. for 1 hour. After completion of the reaction, the inorganic salt was removed by filtration and the acetone was distilled off, then, the contents were admixed with 150 ml of a 20% potassium hydroxide solution in ethanol, followed by refluxing for 30 minutes. After completion of the reaction, the reaction mixture was poured into ice-water to permit crystals to precipitate. The crystals were washed with a dilute acidic solution and a dilute alkaline solution, followed by sufficiently washing with water, drying in vacuum and recrystallizing from a mixed solvent of benzene and n-hexane to obtain 2.00 g of N-allyl-N-α-methylbenzyl-4-hydroxybenzenesulfonamide (melting point 128° to 129° C.).

reactant | N-allyl-N-α-methylbenzylamine | 0.01 mol, 1.61 g | C(C=C)NC(C1=CC=CC=C1)C | C11H15N
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-benzoyloxybenzenesulfonyl chloride | 0.084 mol, 2.62 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)S(=O)(=O)Cl | C13H9ClO4S
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | N-allyl-N-α-methylbenzyl-4-hydroxybenzenesulfonamide | 2.00 g | C(C=C)N(S(=O)(=O)C1=CC=C(C=C1)O)C(C1=CC=CC=C1)C | C17H19NO3S
